US07750003B2
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine
2,4-Dichloro-6-(methylsulfonylmethyl)pyrimidine (30 g, 0.13 mol) was dissolved in dichloromethane and stirred (under nitrogen) at −5° C. Triethylamine (17.4 mL, 0.13 mol) was added to give a clear brown solution. (3S)-3-Methylmorpholine was dissolved in dichloromethane and added dropwise keeping the reaction below −5° C. The cooling bath was then removed and the mixture stirred for 1 hour. The reaction mixture was heated at reflux for 2 hours, then the reaction mixture was washed with water, dried then evaporated. The crude material was purified by preparative HPLC to give the desired material as a solid (19.3 g).

reactant | 2,4-Dichloro-6-(methylsulfonylmethyl)pyrimidine | 0.13 mol, 30 g | ClC1=NC(=CC(=N1)Cl)CS(=O)(=O)C | C6H6Cl2N2O2S
reactant | Triethylamine | 0.13 mol, 17.4 mL | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-Methylmorpholine | C[C@@H]1NCCOC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 19.3 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
